US04226786
Cholesterol (20 g), methyl ethyl ketone (150 ml), and Girdler G65-S-RS catalyst (10.0 g) and 1-hexene (13 g) were heated and rocked at 250° C. for 4 hours. An analysis by gas chromatography indicated conversion to a mixture of 4-cholesten-3-one (78 parts), cholesterol (4 parts), coprostanone (8 parts), and cholestanone (6 parts). Similar results are obtained when sitosterol is used in place of cholesterol.

reactant | Cholesterol | 20 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | 1-hexene | 13 g | C=CCCCC | C6H12
reactant | 4-cholesten-3-one | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H44O
reactant | coprostanone | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@@H]4[C@@]3(CCC(=O)C4)C)C | C27H46O
reactant | cholestanone | CC(C)C(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4CCCC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H46O
solvent | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
product | sitosterol | CC[C@H](CC[C@@H](C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C)C(C)C | C29H50O
